data/mechanism_extracts/NatCommun/10.1038_s41467-022-32084-8_sup_1.json
{"doi": "10.1038_s41467-022-32084-8_sup_1", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electro-oxidative three-component 1,2-amino oxygenation of alkenes with sulfonamides and trifluoroethanol (TFE) to give β-amino alcohol derivatives via N-centered radicals", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "mediator_anodic"], "electrochemical_role": "Anodic oxidation: DBU is electroactive and shuttles electrons from the sulfonamide anion (deprotonated by DBU) to the anode, generating an N-centered radical (NCR); the benzylic carbon radical formed after addition to alkene is further oxidized at the anode to a benzylic cation that is trapped by TFE", "key_intermediates": [{"name": "Tosyl-amide anion (deprotonated sulfonamide)", "smiles": null, "role": "reactive"}, {"name": "N-centered (aminyl) radical from sulfonamide", "smiles": null, "role": "reactive"}, {"name": "Benzylic carbon radical from NCR addition to styrene", "smiles": null, "role": "transient"}, {"name": "Benzylic carbocation after anodic oxidation", "smiles": null, "role": "transient"}, {"name": "Oxidized DBU (mediator)", "smiles": null, "role": "transient"}], "electron_flow": "DBU deprotonates the sulfonamide and is oxidized at the anode; electron transfer from sulfonamide anion to oxidized DBU generates an N-centered radical that adds to the alkene; the resulting benzylic radical is anodically oxidized to a cation and trapped by TFE to give the β-amino ether, with H2 evolved at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "Aliphatic sulfonamide 10 (non-benzylic competitive substrate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard conditions with 3 equiv styrene, intermolecular 1,2-amino oxygenation product 10a formed in 15% while intramolecular pyrrolidine 10b (from 5-exo cyclization of NCR onto pendant alkene) formed in 41%, supporting an N-centered radical pathway"}, {"name": "DBU titration (0–2.0 equiv)", "smiles": "C1CCC2=NCCCN2CC1", "purpose": "other", "observation": "Yield of 4aa increased monotonically with DBU loading (0→76% at 2.0 equiv), consistent with DBU acting as base and electroactive mediator"}, {"name": "Cyclic voltammetry of DBU/1a/2aa", "smiles": null, "purpose": "redox_probe", "observation": "DBU shows catalytic current that increases with added sulfonamide 1a; 1a alone shows no oxidation peak 0–2.5 V; styrene 2aa is electroactive but EDG-styrenes give low yields, arguing against direct alkene oxidation as the initiation step"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Reviewers questioned the rigor of competitive experiments (benzylic C–H of substrate 10 could in principle be oxidized to a cation rather than going through NCR); authors addressed by using an aliphatic substrate where intramolecular 5-exo cyclization (10b, 41%) provides evidence for the NCR pathway. Reviewer #3 proposed an alternative: anodic oxidation of tosylamide anion directly to N-radical without DBU mediation. CV data indicate DBU mediation is operative rather than direct sulfonamide oxidation."}
